US06384051B1
3-Ethoxy-4-nitroaniline
To 600 ml of H2O was slowly added 400 ml conc. H2SO4. To the hot mixture was added 118.5 g 0.44 mol)) of 2-acetylamino-4-ethoxy-5-nitro-benzoic acid. The mixture was heated to 110-112° C. with stirring. Initially there was a vigorous gas evolution. After I hr., the mixture was poured unto ice. The mixture was made basic with conc. ammonium hydroxide (an exothermic reaction ensued). The mixture was allowed to cool to room temperature and the solid was collected by filtration. The solid was washed several time with 500 ml portions of water and then dried in vacuum and then extracted several times with warm ethyl acetate. The extracts were filtered and solvent was removed giving 57.8 g (71%) of the product.

reactant | H2SO4 | 400 ml | OS(=O)(=O)O | H2O4S
reactant | 2-acetylamino-4-ethoxy-5-nitro-benzoic acid | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1)OCC)[N+](=O)[O-] | C11H12N2O6
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | H2O | 600 ml | O | H2O
product | 3-Ethoxy-4-nitroaniline | 57.8 g, 71% | C(C)OC=1C=C(N)C=CC1[N+](=O)[O-] | C8H10N2O3
